US08604061B2
c) (S)-2-Amino-4-(6-trifluoromethyl-pyridin-2-yl)-butan-1-ol
(S)-2,2-Dimethyl-4-[2-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester (0.522 g, 1.39 mmol) was dissolved in ethanol (2.5 ml), hydrochloric acid in ethanol (5N, 2.5 ml) was added and the mixture was stirred at 60° C. for 2 hours. The solvent was evaporated and the residue was dissolved in dichloromethane. A solution of ammonia in methanol (2N, 2 ml) was added and the mixture was evaporated over Isolute® Flash-NH2 silicagel. Chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=90:10) yielded a colourless liquid, (0.237 g, 73%); MS (ISP): 235.1 ((M+H)+.).

reactant | (S)-2,2-Dimethyl-4-[2-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester | 1.39 mmol, 0.522 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC1=NC(=CC=C1)C(F)(F)F)(C)C | C18H25F3N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | ethanol | 5N, 2.5 ml | C(C)O | C2H6O
product | (S)-2-Amino-4-(6-trifluoromethyl-pyridin-2-yl)-butan-1-ol | N[C@H](CO)CCC1=NC(=CC=C1)C(F)(F)F | C10H13F3N2O
